US06166219
Potassium cyanate (0.450 g) and 0.450 g of 18-crown-6 were added to a solution of 1.20 g of 1-(2-chlorobenzyl)-6-chloromethyl-2-methylbenzimidazole in 10 ml of dimethylsulfoxide, and the mixture was stirred at room temperature for 18 hours. The reaction mixture was extracted with the addition of chloroform, water and a small amount of aqueous ammonia. The organic layer was concentrated, and the residue was purified through silica-gel column chromatography (eluent: a mixture of chloroform and methanol at a ratio of 20:1) to give 0.500 g of 1-(2-chlorobenzyl)-2-methylbenzimidazole-6-acetonitrile.

reactant | Potassium cyanate | 0.450 g | [O-]C#N.[K+]
reactant | 18-crown-6 | 0.450 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 1-(2-chlorobenzyl)-6-chloromethyl-2-methylbenzimidazole | 1.20 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)CCl)C)C=CC=C1 | C16H14Cl2N2
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 1-(2-chlorobenzyl)-2-methylbenzimidazole-6-acetonitrile | 0.500 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)CC#N)C)C=CC=C1 | C17H14ClN3
